US06432881B1
step b: methyl 2-chloro-[(1-methylpyrazol-5-yl)oxymethyl]-4-methylsulfonylbenzoate
4.3 g (44 mmol) of 1-methyl-5-hydroxypyrazol, 9.1 g of potassium carbonate and 100 ml of tetrahydrofurane are heated at 65° C. for 1 h. 15 g (44 mmol) of methyl 2-chloro-3-bromomethyl-4-methylsulfonylbenzoate and 150 ml of tetrahydrofurane are added to this mixture and heated at 40° C. for 4 h. This mixture is stirred for 12 h, freed from the solvent under reduced pressure, taken up in ethyl acetate, washed with sodium bicarbonate solution and water, dried and freed form the solvent. The crude product is purified over silica gel (eluent: cyclohexane/ethyl acetate=1/1). Yield: 7.6 g; m.p. 70° C.

reactant | 1-methyl-5-hydroxypyrazol | 44 mmol, 4.3 g | CN1N=CC=C1O | C4H6N2O
reactant | potassium carbonate | 9.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
reactant | methyl 2-chloro-3-bromomethyl-4-methylsulfonylbenzoate | 44 mmol, 15 g | ClC1=C(C(=O)OC)C=CC(=C1CBr)S(=O)(=O)C | C10H10BrClO4S
reactant | tetrahydrofurane | 150 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-chloro-[(1-methylpyrazol-5-yl)oxymethyl]-4-methylsulfonylbenzoate | ClC1=C(C(=O)OC)C=CC(=C1COC1=CC=NN1C)S(=O)(=O)C | C14H15ClN2O5S
